US07494964B2
4 g (0.1 mol. about 60% dispersion) of sodium hydride in 100 ml of absolute tetrahydrofuran are placed in a reaction vessel under a nitrogen atmosphere. At <56° C., a solution of 18.5 g (0.1 mol) of ethyl 4-chloropyridine-2-carboxylate and 2.32 g (0.04 mol) of dried acetone in 75 ml of THF is added dropwise over the course of two hours. The red suspension is then carefully poured into 900 ml of water. It is rendered neutral with 6N HCl, tetrahydrofuran is distilled off on a rotary evaporator, and the yellow to beige 1,5-bis(4-chloropyridin-2-yl)pentane-1,3,5-trione formed is filtered off. The dried, sparingly soluble product is processed further without any particular purification steps. IR (cm−1): 1619 (m); 1564 (s); 1546 (s); 1440 (m); 1374 (s); 1156 (m); 822 (w).

reactant | sodium hydride | 0.1 mol, 4 g | [H-].[Na+]
reactant | ethyl 4-chloropyridine-2-carboxylate | 0.1 mol, 18.5 g | ClC1=CC(=NC=C1)C(=O)OCC | C8H8ClNO2
reactant | acetone | 0.04 mol, 2.32 g | CC(=O)C | C3H6O
reactant | HCl | 6N | Cl | ClH
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | THF | 75 ml | C1CCOC1 | C4H8O
solvent | water | 900 ml | O | H2O
product | 1,5-bis(4-chloropyridin-2-yl)pentane-1,3,5-trione | ClC1=CC(=NC=C1)C(CC(CC(=O)C1=NC=CC(=C1)Cl)=O)=O | C15H10Cl2N2O3
